US03969345
Freshly prepared silver oxide (690 mg.) was added to a solution of 3α-acetoxy-21-hydroxy-5β-pregnane-11,20-dione (68.3 mg.) in methyl iodide (1.5 ml.) and the resulting mixture was refluxed for 1 hour, allowed to stand overnight and then refluxed for a further 3 hours. The reaction was partitioned between water and chloroform and the chloroform layer was washed with water, dried (Na2SO4) and evaporated to give 3α-acetoxy-21-methoxy-5β-pregnane-11,20-dione (69 mg.) as a foam. This was dissolved in methanol (1.25 ml.) and refluxed with 10% aqueous potassium bicarbonate solution (0.6 ml.) for 2.5 hours. The reaction mixture was allowed to cool and was partitioned between water and ether. The ether layer was washed with water, dried (Na2SO4) and evaporated. The product was purified by preparative t.l.c. (ethyl acetate:chloroform; 1:1) to give the title compound as a foam, [α]D + 80°, (c 2.36).

reactant | 3α-acetoxy-21-hydroxy-5β-pregnane-11,20-dione | 68.3 mg | C(C)(=O)O[C@H]1C[C@H]2CC[C@H]3[C@@H]4CC[C@H](C(CO)=O)[C@]4(CC([C@@H]3[C@]2(CC1)C)=O)C | C23H34O5
reactant | methyl iodide | 1.5 ml | CI | CH3I
catalyst | silver oxide | 690 mg | [Ag]=O
product | 3α-acetoxy-21-methoxy-5β-pregnane-11,20-dione | 69 mg | C(C)(=O)O[C@H]1C[C@H]2CC[C@H]3[C@@H]4CC[C@H](C(COC)=O)[C@]4(CC([C@@H]3[C@]2(CC1)C)=O)C | C24H36O5
